* P:\Uoe\Electrical\Motor-Driver\2019-2020\Simulations\3.3V Power filter\Powerfilter.asc
L1 N001 N002 120m Ipk=0.069 Rser=150
C1 N002 0 21µ.µ
C2 N001 0 21.1µ
V1 N001 0 3.3 AC 1
R1 N002 0 100k
.ac dec 1000 1 200k
;.tran 0 10m 0 10u
.backanno
.end
